US08754100B2
Synthesis of (3-bromophenyl)-(2-hydroxyethoxy)acetonitrile
Zinc iodide (50.6 mg) was added to a mixture of 2-(3-bromophenyl)-1,3-dioxolane (3 mL) and trimethylsilyl cyanide (2.49 mL), followed by stirring at room temperature for 1.5 hours. A saturated sodium bicarbonate aqueous solution was added to the reaction solution, followed by extraction with diethyl ether. The organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. Then, the resulting residue was purified by silica gel column chromatography (elution solvent:heptane:ethyl acetate=7:3→1:1) to obtain 3.93 g of the title compound. The property values of the compound are as follows.

reactant | 2-(3-bromophenyl)-1,3-dioxolane | 3 mL | BrC=1C=C(C=CC1)C1OCCO1 | C9H9BrO2
reactant | trimethylsilyl cyanide | 2.49 mL | C[Si](C)(C)C#N | C4H9NSi
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
catalyst | Zinc iodide | 50.6 mg | [I-].[Zn+2].[I-]
product | (3-bromophenyl)-(2-hydroxyethoxy)acetonitrile | 3.93 g | BrC=1C=C(C=CC1)C(C#N)OCCO | C10H10BrNO2
